US07842688B2
d) Benzyl 4-[4-(1-tert-butoxycarbonylpyrrolidin-3(S)-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate
Analogously to Method D, 0.980 g of benzyl 4-[4-(1-tert-butoxycarbonylpyrrolidin-3(S)-yloxy)phenyl]-3-hydroxypiperidine-1-carboxylate and 0.572 g of 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one are reacted. The title compound is obtained as a yellowish oil. Rf=0.14 (1:1 EtOAc-heptane). Rt=5.63.

reactant | benzyl 4-[4-(1-tert-butoxycarbonylpyrrolidin-3(S)-yloxy)phenyl]-3-hydroxypiperidine-1-carboxylate | 0.980 g | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)O | C28H36N2O6
reactant | 6-chloromethyl-4-(3-methoxypropyl)-4H-benzo[1,4]oxazin-3-one | 0.572 g | ClCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C13H16ClNO3
product | Benzyl 4-[4-(1-tert-butoxycarbonylpyrrolidin-3(S)-yloxy)phenyl]-3-[4-(3-methoxypropyl)-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]piperidine-1-carboxylate | C(C)(C)(C)OC(=O)N1C[C@H](CC1)OC1=CC=C(C=C1)C1C(CN(CC1)C(=O)OCC1=CC=CC=C1)OCC=1C=CC2=C(N(C(CO2)=O)CCCOC)C1 | C41H51N3O9
